US08912209B2
Intermediate 15: 3-Bromo-4-(tert-butoxycarbonylamino-methyl)-benzoic acid
NaOH (48.8 g, 1.22 mol, 2.0 eq) in H2O (1.26 L) was added to a solution of 3-bromo-4-(tert-butoxycarbonylamino-methyl)-benzoic acid methyl ester (210 g, 0.61 mol, 1.0 eq) in MeOH (1.26 L). The reaction mixture was stirred at 50° C. for 2 hrs. The reaction was cooled to room temperature and concentrated to half volume. The residue was acidified to pH 5 by adding 1M HCl solution. The resulting solid was collected and dried to give the title intermediate (200 g, 99.4% yield) as white solid.

reactant | NaOH | 1.22 mol, 48.8 g, 2.0 eq | [OH-].[Na+]
reactant | 3-bromo-4-(tert-butoxycarbonylamino-methyl)-benzoic acid methyl ester | 0.61 mol, 210 g, 1.0 eq | COC(C1=CC(=C(C=C1)CNC(=O)OC(C)(C)C)Br)=O | C14H18BrNO4
solvent | H2O | 1.26 L | O | H2O
solvent | MeOH | 1.26 L | CO | CH4O
product | 3-Bromo-4-(tert-butoxycarbonylamino-methyl)-benzoic acid | 200 g, 99.4% yield | BrC=1C=C(C(=O)O)C=CC1CNC(=O)OC(C)(C)C | C13H16BrNO4
